US06313312B1
Ethyl 3-(bromomethyl)-2-methyl-2-(3-nitrophenyl)cyclopropane carboxylate
To a solution of 1-[(E)-3-bromo-1-methyl-1-propenyl]-3-nitrobenzene (Preparation 4, 4 g, 15.6 mmol) in dichloromethane (5 ml) was added rhodium (II) acetate dirner (100 mg, 0.22 nmnol). To the mixture was added dropwise at room temperature over 4.5 h a solution of ethyl diazoacetate (3.1 ml, 2.84 g, 25 mmol) in dichloromethane (15 ml). The mixture was filtered, concentrated in vacuo, and the residue purified by silica column (100 g) chromatography, eluting with 2:1 hexane/dichloromethane then dichloromethane. Product-containing fractions were combined and concentrated in vacuo, then purified further by preparative HPLC (Condition 1). Combination and evaporation of appropriate fractions gave the title compound as a colourless oil (0.5 g, 11%).

reactant | 1-[(E)-3-bromo-1-methyl-1-propenyl]-3-nitrobenzene | 15.6 mmol, 4 g | BrC/C=C(\C)/C1=CC(=CC=C1)[N+](=O)[O-] | C10H10BrNO2
reactant | ethyl diazoacetate | 25 mmol, 3.1 ml, 2.84 g | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
catalyst | rhodium (II) acetate dirner | 100 mg | CC(=O)O.CC(=O)O.CC(=O)O.CC(=O)O.[Rh].[Rh]
product | Ethyl 3-(bromomethyl)-2-methyl-2-(3-nitrophenyl)cyclopropane carboxylate | 0.5 g, 11% | BrCC1C(C1C(=O)OCC)(C1=CC(=CC=C1)[N+](=O)[O-])C | C14H16BrNO4
